US08957205B2
1-[[(3-Methyl-2-oxo-1-imidazolidinyl)carbonyl]amino]cyclohexanecarboxylic acid phenylmethyl ester
1.83 g (12.9 mmol) of methyl iodide was added to a solution of 1.50 g (4.3 mmol) of 1-[[(2-oxo-1-imidazolidinyl)carbonyl]amino]cyclohexanecarboxylic acid phenylmethyl ester and 1.78 g (12.9 mmol) of potassium carbonate in 100 ml of acetonitrile, and the mixture was refluxed under heating overnight. The reaction solution was concentrated, ethyl acetate was added thereto, and the mixture was successively washed with water, a 10% aqueous potassium hydrogensulfate solution, a saturated aqueous sodium hydrogencarbonate solution and saturated brine, followed by drying with anhydrous sodium sulfate. After the solvent was distilled off under reduced pressure, the residue was purified by silica gel chromatography to obtain 710 mg (50%) of the title compound.

reactant | methyl iodide | 12.9 mmol, 1.83 g | CI | CH3I
reactant | 1-[[(2-oxo-1-imidazolidinyl)carbonyl]amino]cyclohexanecarboxylic acid phenylmethyl ester | 4.3 mmol, 1.50 g | C1(=CC=CC=C1)COC(=O)C1(CCCCC1)NC(=O)N1C(NCC1)=O | C18H23N3O4
reactant | potassium carbonate | 12.9 mmol, 1.78 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-[[(3-Methyl-2-oxo-1-imidazolidinyl)carbonyl]amino]cyclohexanecarboxylic acid phenylmethyl ester | 710 mg, 50% | C1(=CC=CC=C1)COC(=O)C1(CCCCC1)NC(=O)N1C(N(CC1)C)=O | C19H25N3O4
